US07981903B2
A mixture of 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (Intermediate B99, 433 mg, 2.23 mol), bromoacetyl chloride (386 mg, 2.45 mmol) and K2CO3 (924 mg, 6.69 mmol) in THF (50 mL) was stirred for 40 min and then Et2NH (326 mg, 4.46 mmol) was added. The reaction mixture was stirred for 1 day, additional Et2NH (0.3 mL) was added, stirring was continued for an additional 24 h, then the reaction was heated at 60° C. for 2 h. The resulting mixture was diluted with EtOAc (200 mL), washed with water (150 mL) and a saturated NaCl solution (100 mL), and back extracted with EtOAc (100 mL). The organic layers were combined, dried (Na2SO4), and concentrated to obtain N,N-diethyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethanamine (687 mg, 100%). ESIMS (M+H)+=307.97.

reactant | 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 2.23 mol, 433 mg | COC=1C=C2CCNC2=CC1[N+](=O)[O-] | C9H10N2O3
reactant | bromoacetyl chloride | 2.45 mmol, 386 mg | BrCC(=O)Cl | C2H2BrClO
reactant | K2CO3 | 6.69 mmol, 924 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Et2NH | 4.46 mmol, 326 mg | N(CC)CC | C4H11N
reactant | Et2NH | 0.3 mL | N(CC)CC | C4H11N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | N,N-diethyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethanamine | 687 mg, 100% | C(C)N(CC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC)CC | C15H21N3O4
